US08686002B2
6-Chloro-3-(2,6-dimethoxybenzyl)quinolin-2-amine
The title compound was synthesized according to EXAMPLE 11 from 2-amino-5-chlorobenzaldehyde and 3-(2,6-dimethoxyphenyl)propionitrile. Instead of dioxane, tert-butanol was used from [sic; as]1 the solvent. 1TN: “aus” (from) appears to be a typo for “als” (as).

reactant | 2-amino-5-chlorobenzaldehyde | NC1=C(C=O)C=C(C=C1)Cl | C7H6ClNO
reactant | 3-(2,6-dimethoxyphenyl)propionitrile | COC1=C(C(=CC=C1)OC)CCC#N | C11H13NO2
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
product | 6-Chloro-3-(2,6-dimethoxybenzyl)quinolin-2-amine | ClC=1C=C2C=C(C(=NC2=CC1)N)CC1=C(C=CC=C1OC)OC | C18H17ClN2O2
